US05753679
0.8 g (0.00323 mol) of ethyl 1-benzylpiperidine-4-carboxylate was dissolved in a mixture of 5 ml of dioxan, 2 ml of water and 3.5 ml (0.0035 mol) of 1N aqueous NaOH. After stirring for 15 min. 3.5 ml (0.0035 mol) of 1N aqueous HCI were added, the mixture was diluted with 20 ml of water, the dioxan was removed by distillation and the residue which remained was lyophilized. The residue was boiled twice with 100 ml of isopropanol each time and the combined organic phases were filtered and concentrated. The product crystallized out in the cold. 0.586 g (83%) of 1-benzylpiperidine-4-carboxylic acid was obtained as white crystals; m.p. 167°-168°.

reactant | ethyl 1-benzylpiperidine-4-carboxylate | 0.00323 mol, 0.8 g | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)OCC | C15H21NO2
reactant | NaOH | 0.0035 mol, 1N, 3.5 ml | [OH-].[Na+]
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 2 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 1-benzylpiperidine-4-carboxylic acid | 0.586 g, 83% | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)O | C13H17NO2
